US04060528
A mixture of 4.2 parts of 2-[2-chloro-3-(2-thenoyl)phenyl]acetonitrile, 7 parts of acetic acid, 7 parts of water and 12 parts of sulfuric acid is stirred and boiled for 1h.30. The reaction mixture is cooled, poured onto water and extracted with ether. The extract is washed with water, extracted with 50 parts of a 5% sodium hydroxide solution and the alkaline solution is washed with ether. After acidification with diluted hydrochloric acid solution, the whole is extracted again with ether. The extract is washed with water, treated with charcoal, filtered and evaporated. The residue is purified by column-chromatography over silicagel, using a mixture of chloroform and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated, yielding 2-[2-chloro-3-(2-thenoyl)phenyl]acetic acid; mp. 112.2° C.

reactant | 2-[2-chloro-3-(2-thenoyl)phenyl]acetonitrile | ClC1=C(C=CC=C1C(C1=CC=CS1)=O)CC#N | C13H8ClNOS
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-[2-chloro-3-(2-thenoyl)phenyl]acetic acid | ClC1=C(C=CC=C1C(C1=CC=CS1)=O)CC(=O)O | C13H9ClO3S
